US06583126B2
Step 2 2-[4-(3-methyl-1,2,4-oxadiazol-5yl)phenyl]-1-phenyl-1-ethanone
To 4-(2,2-dimethoxy-2-phenylethyl)benzoic acid (1.1 g, 3.84 mmole) in DMF (15 mL) was added carbonyldiimidazole (0.68 g, 4.2 mmole). After 20 min, N-hydroxy ethanimidamide (0.33 g, 4.5 mmole) was added and the mixture stirred for 45 min. at r.t. followed by 100° C. overnight. The reaction was cooled, poured in H2O (30 mL) and extracted with hexane/ethylacetate 1:1. The organic phase was dried over Na2SO4 and concentrated. The residue was dissolved in 100 mL acetone and treated with p-toluene sulfonic acid (100 mg) for 2 h. Et3N (0.5 mL) was added, and the mixture was concentrated to dryness. The residue was dissolved in 2:1 hexane/ethyl acetate (10 mL) and passed through a pad of silica gel, eluting with 1: 1 hexane:EtOAc. The fractions were concentrated, and the residue was stirred with 4:1 hexane:EtOAc 10 mL to give 0.49 g of the desired compound.

reactant | 4-(2,2-dimethoxy-2-phenylethyl)benzoic acid | 3.84 mmole, 1.1 g | COC(CC1=CC=C(C(=O)O)C=C1)(C1=CC=CC=C1)OC | C17H18O4
reactant | carbonyldiimidazole | 4.2 mmole, 0.68 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N-hydroxy ethanimidamide | 4.5 mmole, 0.33 g | ONC(C)=N | C2H6N2O
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | H2O | 30 mL | O | H2O
product | 2-[4-(3-methyl-1,2,4-oxadiazol-5yl)phenyl]-1-phenyl-1-ethanone | 0.49 g | CC1=NOC(=N1)C1=CC=C(C=C1)CC(=O)C1=CC=CC=C1 | C17H14N2O2
